US09120788B2
3-(4-Chloro-3-fluorophenyl)-N-propyl-3H-imidazo[4,5-b]pyridine-2-carboxamide (6)
n-Propylamine (148 mg, 2.5 mol) was added to a solution of ethyl 3-(4-chloro-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate (C13) (80 mg, 0.25 mmol) in ethanol (5 mL) and the reaction mixture was stirred at room temperature for 18 hours. After concentration under reduced pressure, the residue was purified by preparative thin layer chromatography on silica gel (Eluent: 1:1 petroleum ether/ethyl acetate) to provide the product as a pale yellow solid. Yield: 28 mg, 84 μmol, 34%. LCMS m/z 332.9 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.43 (dd, J=4.8, 1.4 Hz, 1H), 8.26 (dd, J=8.2, 1.5 Hz, 1H), 7.67 (dd, J=8.4, 8.2 Hz, 1H), 7.45-7.50 (m, 2H), 7.30 (ddd, J=8.5, 2.3, 1.2 Hz, 1H), 3.28-3.34 (m, 2H, assumed; partially obscured by solvent peak), 1.58-1.68 (m, 2H), 0.96 (t, J=7.4 Hz, 3H).

reactant | n-Propylamine | 2.5 mol, 148 mg | C(CC)N | C3H9N
reactant | ethyl 3-(4-chloro-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate | 0.25 mmol, 80 mg | ClC1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)OCC)F | C15H11ClFN3O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-(4-Chloro-3-fluorophenyl)-N-propyl-3H-imidazo[4,5-b]pyridine-2-carboxamide | ClC1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)NCCC)F | C16H14ClFN4O
